US06562978B1
1-tert-Butoxycarbonyl-4-(4-pyridinylthio)piperidine
By a similar manner to Reference Example 35, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with 4-mercaptopyridine (0.67 g, 6.0 mmol) to give the titled compound as pale yellow oily substance (1.33 g, 90%)

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-mercaptopyridine | 6.0 mmol, 0.67 g | SC1=CC=NC=C1 | C5H5NS
product | 1-tert-Butoxycarbonyl-4-(4-pyridinylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=CC=NC=C1 | C15H22N2O2S
